US07612114B2
6-{2-{Ethyl{4-[2-(ethylmethylamino)ethoxy]-3-fluorobenzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 2-chloro-N-ethyl-N-methylacetamide (10 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (13 mg) was obtained.

reactant | pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC(=C(C=C1)O)F)=O | C31H34FNO5
reactant | 2-chloro-N-ethyl-N-methylacetamide | 10 mg | ClCC(=O)N(C)CC | C5H10ClNO
product | 6-{2-{Ethyl{4-[2-(ethylmethylamino)ethoxy]-3-fluorobenzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 13 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCN(C)CC)F | C31H39FN2O3
